US05210193
1-Cyclopropyl-6-fluoro-7-[3-(trifluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 0.55 g portion of 2-(trifluoromethyl)piperazine was dissolved in 14 ml of pyridine. To this was added 265 mg of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid. The mixture was stirred for 3 hours at 77° C.. The pyridine was removed by repeated evaporation with toluene. The residue was triturated with hot methanol. The resulting solid was collected, washed with methanol and ether and dried, giving 105 mg of the desired product as a colorless solid.

reactant | 2-(trifluoromethyl)piperazine | FC(C1NCCNC1)(F)F | C5H9F3N2
reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 265 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6-fluoro-7-[3-(trifluoromethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 105 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C(F)(F)F)F)=O)C(=O)O | C18H17F4N3O3
